US07462600B2
2,3-Diaminophenol (2 g) in 10 ml acetic acid and 20 ml 4M sodium acetate and a solution of oxalaldehyde (4.8 g) dissolved in 20 ml water were combined and the resulting mixture was heated at 60° C. for 1.5 h. After cooling to RT water (100 ml) was added and the mixture extracted with EtOAc. The organic layer was dried over Na2SO4, and concentrated to give quinoxalin-5-ol. MS (ESI+) for m/z 147 [M+H]+.

reactant | 2,3-Diaminophenol | 2 g | NC1=C(C=CC=C1N)O | C6H8N2O
reactant | oxalaldehyde | 4.8 g | C(C=O)=O | C2H2O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | sodium acetate | 4M, 20 ml | C(C)(=O)[O-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | quinoxalin-5-ol | N1=CC=NC=2C(=CC=CC12)O | C8H6N2O
